US05405979
1.74 g of 3,3-(ethylenedioxy)-11β-(4-hydroxyphenyl)-5-estren-17-one is dissolved under protective gas together with 2.6 g of 4-dimethylaminopyridine in 42 ml of absolute methylene chloride, cooled to -78° C. and mixed with 0.94 ml of trifluoromethanesulfonic acid anhydride dissolved in 6 ml of absolute methylene chloride. After one more hour of stirring, the reaction mixture is poured on saturated sodium bicarbonate solution and the aqueous phase is extracted several times with methylene chloride. The combined organic phases are washed with saturated sodium chloride solution, dried on sodium sulfate and concentrated by evaporation in a vacuum. The residue is chromatographed on silica gel with a mixture of ethyl acetate/hexane and 1.81 g of 3,3-(ethylenedioxy)-11β-(4-trifluoromethylsulfonyloxyphenyl)-5-estren-17-one is obtained.

reactant | 3,3-(ethylenedioxy)-11β-(4-hydroxyphenyl)-5-estren-17-one | 1.74 g | C1OC2(CC3=CC[C@H]4[C@@H]5CCC([C@@]5(C)C[C@@H]([C@@H]4[C@H]3CC2)C2=CC=C(C=C2)O)=O)OC1 | C26H32O4
reactant | trifluoromethanesulfonic acid anhydride | 0.94 ml | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
catalyst | 4-dimethylaminopyridine | 2.6 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | methylene chloride | 42 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 6 ml | C(Cl)Cl | CH2Cl2
product | 3,3-(ethylenedioxy)-11β-(4-trifluoromethylsulfonyloxyphenyl)-5-estren-17-one | 1.81 g | C1OC2(CC3=CC[C@H]4[C@@H]5CCC([C@@]5(C)C[C@@H]([C@@H]4[C@H]3CC2)C2=CC=C(C=C2)OS(=O)(=O)C(F)(F)F)=O)OC1 | C27H31F3O6S
